US06924276B2
Step 1: 5-Methyl-4-nitro-thiophene-2-carboxylic Acid 1,3-benzodioxol-5-ylmethyl Ester
The title compound was prepared according to the procedure described for Example 2 using carbonyldiimidazole (0.75 g, 4.3 mmol), 5-methyl-4-nitro-thiophene-2-carboxylic acid (0.6 g, 3.2 mmol), and piperonyl alcohol (0.5 g, 3.3 mmol) to afford 0.8 g of 5-methyl-4-nitro-thiophene-2-carboxylic acid 1,3-benzodioxol-5-ylmethyl ester. A sample of the product was triturated in ethanol, cooled, filtered, and dried to give product with a mp 78-79° C.

reactant | carbonyldiimidazole | 4.3 mmol, 0.75 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-methyl-4-nitro-thiophene-2-carboxylic acid | 3.2 mmol, 0.6 g | CC1=C(C=C(S1)C(=O)O)[N+](=O)[O-] | C6H5NO4S
reactant | piperonyl alcohol | 3.3 mmol, 0.5 g | C(C1=CC=2OCOC2C=C1)O | C8H8O3
product | 5-methyl-4-nitro-thiophene-2-carboxylic acid 1,3-benzodioxol-5-ylmethyl ester | 0.8 g | O1COC2=C1C=CC(=C2)COC(=O)C=2SC(=C(C2)[N+](=O)[O-])C | C14H11NO6S
